US06867185B2
Step 29i) Following an analogous experimental and purification procedure to Step 1i, (1S,4R,6S,14S,18R)-7-cis-18-[2-(2-Acetylaminothiazol-4-yl)-7-methoxy-quinolin-4-yloxy]-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic ethyl ester (180 mg, 0.228 mmol) in 14 mL of THF and 3.5 mL of MeOH was reacted with 92 mg (2.3 mmol) of LiOH in 7 mL of H2O to afford (1S,4R,6S,14S,18R)-7-cis-18-[2-(2-Acetylaminothiazol-4-yl)-7-methoxyquinolin-4-yloxy]-14-tert-butoxycar-bonylamino-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid (150 mg, 86%): 1H NMR (500 MHz, CD3OD, some minor broadening due to rotomers) δ 11.29 (s, 9H), 1.41 (m, 7H), 1.62 (m, 2H), 1.84 (m, 1H), 1.96 (m, 1H), 2.18 (m, 1H), 2.24 (s, 3H), 2.50 (m, 1H), 2.62 (m, 1H), 2.68 (m, 1H), 3.96 (s, 3H), 4.11 (s, 1H), 4.29 (s, 1H), 4.65 (s, 2H), 5.51 (s, 3H), 7.05 (s, 1H), 7.37 (s, 1H) 7.55 (s, 1H), 7.95 (s, 1H), 8.12 (s, 1H): LC-MS m/e 763 (retention time: 3.09, method D, except gradient time increased from 2 to 4 min). Step 29j: Preparation of Compound 28, Example 29, (1S,4R,6S,14S,18R)-7-cis-{18-[2-(2-Acetylaminothiazol-4-yl)-7-methoxyquinolin-4-yloxy]-4-cyclopropanesulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]nonadec-7-en-14-yl}carbamic acid tert-butyl ester

reactant | (1S,4R,6S,14S,18R)-7-cis-18-[2-(2-Acetylaminothiazol-4-yl)-7-methoxy-quinolin-4-yloxy]-14-tert-butoxycarbonylamino-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]nonadec-7-ene-4-carboxylic ethyl ester | 0.228 mmol, 180 mg | C(C)OC(=O)[C@@]12NC([C@@H]3C[C@H](CN3C([C@H](CCCCC\C=C/[C@@H]2C1)NC(=O)OC(C)(C)C)=O)OC1=CC(=NC2=CC(=CC=C12)OC)C=1N=C(SC1)NC(C)=O)=O | C40H50N6O9S
reactant | LiOH | 2.3 mmol, 92 mg | [Li+].[OH-]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | MeOH | 3.5 mL | CO | CH4O
solvent | H2O | 7 mL | O | H2O
product | (1S,4R,6S,14S,18R)-7-cis-18-[2-(2-Acetylaminothiazol-4-yl)-7-methoxyquinolin-4-yloxy]-14-tert-butoxycar-bonylamino-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene-4-carboxylic acid | 150 mg, 86% | C(C)(=O)NC=1SC=C(N1)C1=NC2=CC(=CC=C2C(=C1)O[C@H]1CN2C([C@H](CCCCC\C=C/[C@@H]3C[C@]3(NC([C@@H]2C1)=O)C(=O)O)NC(=O)OC(C)(C)C)=O)OC | C38H46N6O9S
